US06288041B1
Synthetic Example BB11: Synthesis of 3α-N-(Nα-tert-butyloxycarbonyl-Nε-benzyloxycarbonyl-L-lysyl)aminocholestane
By using Nα-tert-butyloxycarbonyl-Nε-benzyloxycarbonyl-L-lysine (760 mg, 2.00 mmol) and 3α-aminocholestane (853 mg, 2.20 mmol), the title compound was obtained in the same manner as in Synthetic Example BB 1 (1.57 g, quantitative).

reactant | Nα-tert-butyloxycarbonyl-Nε-benzyloxycarbonyl-L-lysine | 2.00 mmol, 760 mg | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C19H28N2O6
reactant | 3α-aminocholestane | 2.20 mmol, 853 mg | N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H49N
product | 3α-N-(Nα-tert-butyloxycarbonyl-Nε-benzyloxycarbonyl-L-lysyl)aminocholestane | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C46H75N3O5
